US06734205B2
A mixture of ethyl 5-benzyloxy-4-methyl-1H-indole-2-carboxylate (3.50 g, 11.3 mmol), 60% sodium hydride (0.45 g, 11.3 mmol) and N,N-dimethylformamide (70 ml) was stirred at room temperature for 30 minutes, and then methyl iodide (3.21 g, 22.6 mmol) was added dropwise thereto, followed by stirring at room temperature for another 2.5 hours. The reaction mixture was poured into a 5% aqueous sodium chloride solution and extracted twice with ethyl acetate, and the extract solution was washed with a 5% aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent:ethyl acetate/n-hexane=3/97) to obtain 3.53 g of ethyl 5-benzyloxy-1,4-dimethyl-1H-indole-2-carboxylate.

reactant | ethyl 5-benzyloxy-4-methyl-1H-indole-2-carboxylate | 11.3 mmol, 3.50 g | C(C1=CC=CC=C1)OC=1C(=C2C=C(NC2=CC1)C(=O)OCC)C | C19H19NO3
reactant | sodium hydride | 11.3 mmol, 0.45 g | [H-].[Na+]
reactant | methyl iodide | 22.6 mmol, 3.21 g | CI | CH3I
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | ethyl 5-benzyloxy-1,4-dimethyl-1H-indole-2-carboxylate | 3.53 g | C(C1=CC=CC=C1)OC=1C(=C2C=C(N(C2=CC1)C)C(=O)OCC)C | C20H21NO3
